US07705105B2
Potassium carbonate (49.7 g, 0.36 mol) was added to an N,N-dimethylformamide (250 ml) solution of p-nitrophenol (25.0 g, 0.18 mol) under nitrogen atmosphere and suspended, and 3-bromopropene (21.7 g, 0.18 mol) was dropwise added thereto. After finishing dropwise adding, the solution was stirred at a room temperature for 5 hours, and then extracting practice with diethyl ether was carried out after adding water to the solution. The organic layer was washed with water and then dried on anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue thus obtained was refined by means of silica gel chromatography (eluent solvent: toluene). Toluene was distilled off under reduced pressure, and then the resulting residue was recrystallized from ethanol to obtain allyl p-nitrophenyl ether (25.7 g).

reactant | Potassium carbonate | 0.36 mol, 49.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | p-nitrophenol | 0.18 mol, 25.0 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | 3-bromopropene | 0.18 mol, 21.7 g | BrCC=C | C3H5Br
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | allyl p-nitrophenyl ether | 25.7 g | [N+](=O)([O-])C1=CC=C(C=C1)OCC=C | C9H9NO3
